US08624034B2
Step A) 2-(3-Iodophenoxy)-1,3-thiazole
Cesium carbonate (4.52 g, 13.87 mmol) was added to 2-bromo-1,3-thiazole (1.90 g, 11.6 mmol) and 3-iodophenol (2.54 g, 11.5 mmol) in anhydrous DMF (30 mL). The reaction was heated to 135° C. and stirred at this temperature overnight. The reaction was allowed to cool, then was poured into water (100 mL), and extracted with EtOAc (3×100 mL). The combined organics were washed with brine (100 mL), dried (MgSO4), filtered, and concentrated. The crude product was purified via flash chromatography using a Varian SF15-24 g column and an eluent of EtOAc in hexanes (0-10%) to afford the title compound as a yellow oil (2.52 g, 71.8%). MS (LCMS) m/z 304.1 (M+1).

reactant | Cesium carbonate | 13.87 mmol, 4.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-1,3-thiazole | 11.6 mmol, 1.90 g | BrC=1SC=CN1 | C3H2BrNS
reactant | 3-iodophenol | 11.5 mmol, 2.54 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | water | 100 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(3-Iodophenoxy)-1,3-thiazole | 2.52 g, 71.8% | IC=1C=C(OC=2SC=CN2)C=CC1 | C9H6INOS
